US04152441
A mixture of 9 g. (0.025 mol) of 1-(methoxymethyl)-α-phenyl-α-(p-trifluoromethyl-phenyl)imidazole-2-methanol, 70 ml. of glacial acetic acid, 7 ml. of concentrated hydrochloric acid and 7 ml. of water was refluxed for 3.5 hours. After cooling, the liquid was distilled off and 2 N sodium hydroxide solution and a small amount of ethanol were added to the residue. The alcohol was distilled off and the aqueous phase was extracted with diethyl ether. The ethereal solution was washed with water and dried over sodium sulphate and the solvent was distilled off. The residue was first crystallised from a mixture of toluene and petroleum ether (boiling range 40°-60° C.) and subsequently from isopropyl alcohol. α-Phenyl-α-(p-trifluoromethylphenyl)imidazole-2-methanol was obtained. Melting point 174°-175.5° C.

reactant | 1-(methoxymethyl)-α-phenyl-α-(p-trifluoromethyl-phenyl)imidazole-2-methanol | 0.025 mol | COCN1C(=NC=C1)C(O)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C19H17F3N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | α-Phenyl-α-(p-trifluoromethylphenyl)imidazole-2-methanol | C1(=CC=CC=C1)C(O)(C=1NC=CN1)C1=CC=C(C=C1)C(F)(F)F | C17H13F3N2O
